US07504408B2
N-[5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
4-Chloro-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazoline (201 mg, 0.60 mmol) and 5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine (140 mg, 0.63 mmol) in DMF (3 ml) were cooled in an ice-water bath then treated dropwise, under an atmosphere of nitrogen, with a solution of sodium bis(trimethylsilyl)amide (1.0 M in THF, 1.25 ml). The resulting mixture was stirred at ice temperature for a further 90 minutes before quenching in dilute aqueous ammonium chloride solution and extracting with dichloromethane (containing a small percentage of methanol). The extract was washed with saturated brine, dried over magnesium sulphate and evaporated to an orange oil. The residue was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (245 mg, 78%) as a colourless solid; NMR Spectrum: (DMSOd6) 1.97 (quintet, 2), 2.40 (m, 4H), 2.47 (t, 2H), 3.36 (s, 3H), 3.59 (m, 4H), 3.95 (s, 3H), 4.20 (t, 2H), 4.37 (s, 2H), 6.16 (s, 2H), 6.91 (d, 1H), 7.19 (s, 1H), 7.81 (s, 1H), 8.36 (s, 1H), 9.52 (s, 1H); Mass Spectrum: M+H+ 525.

reactant | 4-Chloro-6-methoxy-7-(3-morpholin-4ylpropoxy)quinazoline | 0.60 mmol, 201 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-amine | 0.63 mmol, 140 mg | FC1=C(C2=C(OCO2)C(=C1)C#CCOC)N | C11H10FNO3
reactant | sodium bis(trimethylsilyl)amide | 1.0 M, 1.25 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-[5-fluoro-7-(3-methoxyprop-1-yn-1-yl)-1,3-benzodioxol-4-yl]-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 245 mg, 78% | FC1=C(C2=C(OCO2)C(=C1)C#CCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C27H29FN4O6
